US07790724B2
b) 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(6-amino-pyridin-3-yl)-2-cyclohex-1-enyl-phenyl]-amide
To a mixture of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-phenyl]-amide (as prepared in the previous step, 32.0 mg, 0.0600 mmol), 5-bromo-pyridin-2-ylamine (10.4 mg, 0.0660 mmol) and Pd(PPh3)4 (7.0 mg, 0.0060 mmol) in 1.0 mL of 1,4-dioxane was added 2.0 M Na2CO3 aqueous solution (0.24 mL, 0.48 mmol). The resulting mixture was stirred at 80. C for 6 h under Ar. After cooling to RT, the mixture was treated with 30 mL of EtOAc, washed with H2O (3×15 mL) and brine (10 mL). The organic layer was dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (2-3% MeOH/DCM) to afford 24 mg (78%) of the title compound as a white solid: Mass spectrum (ESI, m/z): Calcd. for C28H34N6O2Si, 515.3 (M+H), found 515.2.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-phenyl]-amide | C1(=CCCCC1)C1=C(C=CC(=C1)B1OCC(CO1)(C)C)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C28H39BN4O4Si
reactant | 5-bromo-pyridin-2-ylamine | 0.0660 mmol, 10.4 mg | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | Na2CO3 | 0.48 mmol, 2.0 M, 0.24 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.0060 mmol, 7.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(6-amino-pyridin-3-yl)-2-cyclohex-1-enyl-phenyl]-amide | 24 mg, 78% | NC1=CC=C(C=N1)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCCCC1 | C28H34N6O2Si
